US05041455
A. 3-(4-(3-pentynyloxy)-1,2,5-thiadiazol-3-yl)pyridine
To a solution of 3-pentyn-1-ol (750 mg, 9 mmol) and sodium hydride (310 mg, 9 mmol) in dry tetrahydrofuran was added a solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (590 mg, 3 mmol) in dry tetrahydrofuran. The reaction mixture was stirred at room temperature for 1 h. Water was added and the mixture was extracted with ether. The ether phase was dried and evaporated to give the title compound.

reactant | 3-pentyn-1-ol | 9 mmol, 750 mg | C(CC#CC)O | C5H8O
reactant | sodium hydride | 9 mmol, 310 mg | [H-].[Na+]
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol, 590 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-(3-pentynyloxy)-1,2,5-thiadiazol-3-yl)pyridine | C(CC#CC)OC=1C(=NSN1)C=1C=NC=CC1 | C12H11N3OS
